US05959107
5-(5-Isoquinolylsulfanyl)-2-nitroaniline 2.00 g (6.7 mmol) was dissolved in DMF 40 ml, 60% NaH 300 mg (7.4 mmol) and benzilbromide 1.26 g (7.4 mmol) were added, and the mixture was stirred overnight at room temperature. The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (silica gel 30 g, chloroform: ethyl acetate=5:1), and N1-benzyl-5-(5-isoquinolylsulfanyl)-2-nitroaniline 1.51 g (57.9%) was obtained.

reactant | 5-(5-Isoquinolylsulfanyl)-2-nitroaniline | 6.7 mmol, 2.00 g | C1=NC=CC2=C(C=CC=C12)SC=1C=CC(=C(N)C1)[N+](=O)[O-] | C15H11N3O2S
reactant | DMF | 7.4 mmol, 40 ml, 300 mg | CN(C)C=O | C3H7NO
reactant | benzilbromide | 7.4 mmol, 1.26 g | [Br-].C1(=CC=CC=C1)C(=O)C(=O)C1=CC=CC=C1
product | N1-benzyl-5-(5-isoquinolylsulfanyl)-2-nitroaniline | 1.51 g, 57.9% | C(C1=CC=CC=C1)NC1=C(C=CC(=C1)SC1=C2C=CN=CC2=CC=C1)[N+](=O)[O-] | C22H17N3O2S
